### PR TITLE
Improve [prove_program] to deal with opaque programs

### PR DESCRIPTION
**Pull request by lthms**
See the comments of commits for more details about implementation choice and justification.

### CODE REVIEW

**Comment by lthms** [comment]
@yurug when you have some time, feel free to have a look :) would love to have your feedback!

**Comment by lthms** [comment]
@yurug is it okay if I merge this and move forward?

I would gladly take any feedback you might have regarding these changes in the future, and fix them accordingly. But I would also love to clean up a bit the code base and the pending PR.

**Comment by yurug** [comment]
Can you wait until 2.30PM?

**Comment by lthms** [comment]
I can wait a few more days even :).

File: core/theories/Specification.v [hunk 1]
```diff
@@ -464,7 +465,92 @@ Proof.
...
   + auto.
   + intros sig Hsig.
-    apply (H sig Hsig).
-    destruct Hsig.
-    now apply Henf.
+    apply H;
+      now apply Hsig.
 Qed.
+
+(** We now introduce the notion of so-called correct run, to reason
```
Comment (yurug) [inline core/theories/Specification.v]: This comment is a bit cryptic. Can you motivate the necessity to replace the notion of "compliant specification" with this notion of correct run?

File: core/theories/Specification.v [hunk 2]
```diff
@@ -464,7 +465,92 @@ Proof.
...
+                                (f:   B -> Program I A)
+                                (y:   A)
+                                (w':  W)
+                                (Hf:  correct_run c (abstract_step c op x w) (f x) y w')
+  : correct_run c w (Request op f) y w'.
+
+(** We show that this notion of [correct_run] allows us to reason
+    about the correctness of a program constructed with
+    [program_bind], without the need to enumerate all the requests
+    made by each subprograms. In other words, [correct_run] enables
```
Comment (yurug) [inline core/theories/Specification.v:529]: Which would be the case with a compliance-based specification?

File: examples/Airlock.v [hunk 3]
```diff
@@ -208,6 +215,80 @@ Definition doors_specs: Specification (bool * bool) (door.i In <+> door.i Out) :
...
+      (l:   door)
+  : close_door l |> doors_specs [b].
+Proof.
+  induction l;
+    prove_program.
+  + induction b;
+      constructor.
+  + inversion Hpost; ssubst.
+    constructor.
+    now intro F.
```
Comment (yurug) [inline examples/Airlock.v:229]: Why don't you use an anonymous introduction here?

File: examples/Airlock.v [hunk 4]
```diff
@@ -216,10 +297,11 @@ Lemma controller_is_correct
...
-                   simpl_existTs;
-                   now subst
-                 ).
+    prove_program.
+  + apply close_door_is_correct.
+  + apply close_door_is_correct.
+  + apply close_door_is_correct.
+  + apply open_door_is_correct.
+    eapply close_door_specs.
+    exact Hrun.
```
Comment (yurug) [inline examples/Airlock.v:306]: This proof script seems more canonical, indeed!

**Review by yurug — DISMISSED** [review]
This patch set is nice. Yet, I think we should better document the different notions of specification FreeSpec offers and what typical use cases they cover.

File: examples/Airlock.v (hunk 3 above)
Comment (lthms) [reply examples/Airlock.v:229]: I tend not to use anonymous introduction, *ever*. I had to much trouble upgrading from one Coq version to another when I started using it, I guess. Also, I tend to name contradictory hypothesis `F` (or related), so by just reading `now intro F` I know exactly how the proof is concluded.

File: core/theories/Specification.v (hunk 1 above)
Comment (lthms) [reply core/theories/Specification.v]: A semantic is compliant, a program is correct. This patch does not change that, nor it had a new complementary notion. In fact, the notion of correct runs is used to prove correctness of programs based on the correctness of sup-programs (the key lemma to consider to understand the idea is `correct_program_correct_run_correct_bind`), and it is used by the `prove_program` tactic to one of its two constructors, but is “stucked” at a `program_bind` call.

File: core/theories/Specification.v (hunk 2 above)
Comment (lthms) [reply core/theories/Specification.v:529]: You are right. The wording I chose here was driven by the fact that in FreeSpec, most of the proofs are about program correctness, because even when we want to prove compliance of given components, the latter are defined in terms of programs that need to be correct (but this property alone is not sufficient).

File: examples/Airlock.v (hunk 4 above)
Comment (lthms) [reply examples/Airlock.v:306]: The `close_door_specs` lemma remains a bit cumbersome to prove, though. I think I will try to have a deeper look soon to improve a bit more the situation.

**Comment by lthms** [comment]
Thanks for your feedback (although you are supposed not to work this week :p). I agree I shall improve the documentation, and will try to do just that in the coming days.

File: core/theories/Specification.v (hunk 1 above)
Comment (lthms) [reply core/theories/Specification.v]: I didn't changed much, but hopefully with 74fa725 `correct_run` is clearer now. Could you have a look?

**Comment by lthms** [comment]
I will merge this. I really need to do a complete documentation effort and created #27 to that end. This is also related to #8.

Thanks for the review!
